US04309441
0.326 g. of 7-(3-Hydroxy-5-oxo-1-cyclopenten-1-yl)-heptanoic acid were dissolved in 20 ml. of dry acetone. At -20° C., 0.23 ml. of triehtylamine were added and then 0.216 ml. isobutyl chloroformate. After 5 minutes, the temperature was permitted to increase to 25° C., and 0.4 g. of p-benzoylaminophenol dissolved in 10 ml. of dry pyridine was added dropwise. After 2 hours, the solvent was distilled off; the residue was extracted in ethyl acetate; the organic phase was washed with water and dried over sodium sulphate. The solvent was distilled off. After chromatographic purification of the residue (silica gel/ethyl acetate), 7-(3-hydroxy-5-oxo-1-cyclopenten-1-yl)-heptanoic acid p-benzoylaminophenyl ester (m.p. 168°-169° C.) was obtained.

reactant | 7-(3-Hydroxy-5-oxo-1-cyclopenten-1-yl)-heptanoic acid | OC1C=C(C(C1)=O)CCCCCCC(=O)O | C12H18O4
reactant | acetone | CC(=O)C | C3H6O
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | p-benzoylaminophenol | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)O | C13H11NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | triehtylamine | C(C)N(CC)CC | C6H15N
product | 7-(3-hydroxy-5-oxo-1-cyclopenten-1-yl)-heptanoic acid p-benzoylaminophenyl ester | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)OC(CCCCCCC1=CC(CC1=O)O)=O | C25H27NO5
